US04127655
(c) 8-Benzoyl-5-phenyloxy-8H-pyrazolo[4',3':5,6]pyrido-[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine
0.01 mol. of 5-phenyloxy-8H-pyrazolo[4',3':5,6]pyrido-[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine and 0.02 mol. of benzoyl chloride are stirred overnight in 50 ml. of dry pyridine at room temperature. On addition of 50 ml. of water, 8-benzoyl-5-phenyloxy-8H-pyrazolo[4',3':5,6]pyrido-[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine is filtered off.

reactant | 5-phenyloxy-8H-pyrazolo[4',3':5,6]pyrido-[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine | C1(=CC=CC=C1)OC1=NC=2N(C3=C1C=NC1=C3C=NN1)N=CN2 | C15H9N7O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 8-Benzoyl-5-phenyloxy-8H-pyrazolo[4',3':5,6]pyrido-[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine | C(C1=CC=CC=C1)(=O)N1N=CC2=C1N=CC=1C(=NC=3N(C12)N=CN3)OC3=CC=CC=C3 | C22H13N7O2
